US05707544
0.2 g of N,N'-dicyclohexylcarbodiimide is added at room temperature while stirring to a solution of 0.6 g of 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoic acid, 0.4 g of (4-[4-(4-nitrophenylazo)benzoyloxy]phenyl)methanol and 0.04 g of 4-dimethylaminopyridine in 20 ml of dichloromethane. The reaction as mixture is stirred at room temperature overnight, poured into 100 ml of water and then extracted three times with 50 ml of dichloromethane each time. The organic phases are combined, washed twice with 100 ml of water each time, dried over magnesium sulphate, filtered and the filtrate is concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 1:1) and two-fold recrystallization from acetone of the fractions which are pure according to thin-layer chromatography gives 0.4 g of (4-[4-(4-nitrophenylazo)benzoyloxy]phenyl)methyl 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoate.

reactant | N,N'-dicyclohexylcarbodiimide | 0.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoic acid | 0.6 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)O)C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O12
reactant | (4-[4-(4-nitrophenylazo)benzoyloxy]phenyl)methanol | 0.4 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C(=O)OC2=CC=C(C=C2)CO)C=C1 | C20H15N3O5
reactant | water | 100 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (4-[4-(4-nitrophenylazo)benzoyloxy]phenyl)methyl 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoate | 0.4 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)OCC2=CC=C(C=C2)OC(C2=CC=C(C=C2)N=NC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C59H55N3O16
